US07166622B2
4-Bromo-N-[(1S)-1-cyclohexyl-2-hydroxyethyl]benzenesulfonamide
The following compounds (Examples 16–19, Table 3) were prepared using 4-bromobenzensulfonyl chloride with L-cyclohexylglycine, D-4-hydroxyphenylglycine, D-methionine, and L-tryptophan and following the procedure outlined in Example 16.

reactant | 4-bromobenzensulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | L-cyclohexylglycine | C1CCC(CC1)[C@@H](C(=O)O)N | C8H15NO2
reactant | D-4-hydroxyphenylglycine | C1=CC(=CC=C1[C@H](C(=O)O)N)O | C8H9NO3
reactant | D-methionine | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | L-tryptophan | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
product | 4-Bromo-N-[(1S)-1-cyclohexyl-2-hydroxyethyl]benzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N[C@H](CO)C1CCCCC1 | C14H20BrNO3S
